US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazin
15.15 g of 3,4,5-trimethoxycinnamoyl chloride and 8.92 ml of triethylamine are added with ice cooling and stirring to a solution of 9.80 g of 1-[1-(isopropylaminocarbonyl)ethyl]piperazine in 200 ml of chloroform, and the resulting solution is stirred at room temperature for 1 hour.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 15.15 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | triethylamine | 8.92 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[1-(isopropylaminocarbonyl)ethyl]piperazine | 9.80 g | C(C)(C)NC(=O)C(C)N1CCNCC1 | C10H21N3O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazin | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NC(C)C)C=C(C1OC)OC | C22H33N3O5
